US03956363
5-Cyano-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid is prepared by the addition of 1.0 mole of m-chloroperbenzoic acid per mole of 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid in an acetone solution.

reactant | m-chloroperbenzoic acid | 1.0 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid | C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C21H17NO3S
solvent | acetone | CC(=O)C | C3H6O
product | 5-Cyano-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid | C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)O | C21H17NO4S
